US07214673B2
(S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a method similar to the method of Example 460, using 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine (0.566 g, 2.19 mmol) and (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine (0.457 g, 2.19 mmol) to give 0.539 g of the title compound as a solid: mass spectrum (ion spray): m/z=450 (M+1); Analysis for C25H28FN5S(0.2 H2O): calcd: C, 66.26; H, 6.32; N, 15.45; found: C, 65.96; H, 6.11; N, 15.31.

reactant | 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 2.19 mmol, 0.566 g | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C13H14N4S
reactant | (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine | 2.19 mmol, 0.457 g | FC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C12H17FN2
product | (S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.539 g | FC=1C=C(C=CC1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C25H28FN5S
